US08076491B2
1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-amine (287 mg, 1.49 mmol) and benzyl isocyanate (199 mg, 1.49 mmol) in acetonitrile (5 mL) were heated at 65° C. for 16 hours. The reaction was cooled down to room temperature and concentrated. The residue was purified by silica column chromotography (100% to 90% dichloromethane in methanol: 30 minute gradient) and triturated with ethyl acetate/hexanes (1/9) to afford 1-benzyl-3-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)urea (246 mg, 51%) as a white solid. LC/MS; [M+H] calculated for C17H19N5O2; expected 326.15; found 326.10.

reactant | 1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-amine | 1.49 mmol, 287 mg | CC1=NOC(=C1CN1N=CC(=C1)N)C | C9H12N4O
reactant | benzyl isocyanate | 1.49 mmol, 199 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-benzyl-3-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)urea | 246 mg, 51% | C(C1=CC=CC=C1)NC(=O)NC=1C=NN(C1)CC=1C(=NOC1C)C | C17H19N5O2
